US20010016635A1
A 500 mL round bottomed flask was charged with propyl-trimethoxysilane (19.3 mL, 1.10×10−1 mole, Hüls) and ether (250 mL, Aldrich). A pressure equalizing addition funnel was charged with phenylmagnesium bromide (33.3 mL of a 3M solution in ether, 99.9 mmol, Aldrich) and ether (50 mL). The contents of the addition funnel were added into the silane over a 20 minute period (exotherm). A white precipitate formed. The reaction was stirred for two hours at room temperature then poured into 0.2N HCl (300 mL). The layers were separated, the product extracted into ether (2×250 mL), dried (MgSO4), and filtered. The solvent was removed via rotary evaporation resulting in 23.5 grams of crude material. Distillation under reduced pressure (b.p. 71° C., 0.6 mm Hg) provided phenyl-propyl-dimethoxysilane (18.5 g, 88.0 mmol, 88% yield); C11H18SiO2 (mw=210.34); 1H NMR (CDCl3) δ 7.7 (m, 2H), 7.4 (m, 3H), 3.6 (s, 6H), 1.4 (m, 2H), 1.0 (t, 3H), 0.9 (t, 2H); 13C NMR (CDCl3) δ 134.3, 133.3, 130.1, 127.9, 50.6, 17.9, 16.3, 14.8; MS m/z (relative abundance) 210 (2), 167 (100), 137 (33), 107 (17), 91 (17), 59 (10).

reactant | propyl-trimethoxysilane | 1.10×10−1 mole, 19.3 mL | C(CC)[Si](OC)(OC)OC | C6H16O3Si
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | silane | [SiH4] | H4Si
reactant | HCl | 0.2N, 300 mL | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 250 mL | CCOCC | C4H10O
product | phenyl-propyl-dimethoxysilane | 88.0 mmol, 18.5 g, 88% yield | C1(=CC=CC=C1)[Si](OC)(OC)CCC | C11H18O2Si
